US06573388B1
To a solution of 3(S)-(t-butyloxycarbonyl)amino-1,2(S)-epoxy-4-phenylbutane (200 mg, 0.76 mmol) in 2 mL of dry isopropanol was added isobutylamine (0.38 mL, 3.8 mmol) and the mixture was stirred for 5 h at 50° C. The mixture was concentrated under reduced pressure and dried in vaccuo to give 230 mg of 2(S)-hydroxy-3(S)-(t-butyloxycarbonyl)amino-1-isobutylamino-4-phenylbutane

reactant | 3(S)-(t-butyloxycarbonyl)amino-1,2(S)-epoxy-4-phenylbutane | 0.76 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C15H21NO3
reactant | isobutylamine | 3.8 mmol, 0.38 mL | C(C(C)C)N | C4H11N
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | 2(S)-hydroxy-3(S)-(t-butyloxycarbonyl)amino-1-isobutylamino-4-phenylbutane | 230 mg, Yield: 90% | O[C@@H](CNCC(C)C)[C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C19H32N2O3
